US06821980B1
N-(4-Bromo-phenyl)-2,2,2-trifluoro-N-methyl-acetamide (2.68 g; 9 mmol), bis(pinacolato)diboron (2.51 g; 9.9 mmol), potassium acetate (2.65 g; 27 mmol) and 1,1′-bis(diphenylphosphino)ferrocene-dichloropalladium(II) (PdCl2(dppf)) (936 mg; 0.81 mmol) are suspended in dimethoxyethane (90 ml; dried over a molecular sieve), and four times the suspension is evacuated with vigorous stirring to remove the oxygen ester and ventilated with argon. The mixture is then stirred at a bath temperature of 80° C. for 24 hours. After cooling to room temperature, dimethylformamide (170 ml), tetrakis-triphenylphosphine-palladium (936 mg; 0.81 mmol), 5-(3-benzyloxy-5-ethoxy-4-iodo-benzyl)-pyrimidine-2,4-diamine (3.42 g; 7.2 mmol) and a 2 M aqueous potassium phosphate solution (36 ml) are added to the reaction mixture. The reaction mixture is stirred for approx. 17 hours under argon at 90° C. (bath temperature), cooled to room temperature and filtered with suction and the filtrate is concentrated. Water (100 ml) is added to the residue obtained and the mixture is extracted with methylene chloride (150 ml). The organic phase is washed successively with water (100 ml and a saturated aqueous sodium chloride solution (100 ml), dried over magnesium sulphate, filtered with suction and concentrated. The residue is chromatographed over silica gel (600 g) with methylene chloride/methanol/NH4OH 19/1/0.05. 2.30 g (47%) 5-(6-benzyloxy-2-ethoxy-4′-methylamino-biphenyl-4-ylmethyl)-pyrimidine-2,4-diamine are obtained as a light-brown powder, which is employed directly in the next stage.

reactant | N-(4-Bromo-phenyl)-2,2,2-trifluoro-N-methyl-acetamide | 9 mmol, 2.68 g | BrC1=CC=C(C=C1)N(C(C(F)(F)F)=O)C | C9H7BrF3NO
reactant | bis(pinacolato)diboron | 9.9 mmol, 2.51 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 27 mmol, 2.65 g | C(C)(=O)[O-].[K+]
reactant | 5-(3-benzyloxy-5-ethoxy-4-iodo-benzyl)-pyrimidine-2,4-diamine | 7.2 mmol, 3.42 g | C(C1=CC=CC=C1)OC=1C=C(CC=2C(=NC(=NC2)N)N)C=C(C1I)OCC | C20H21IN4O2
reactant | potassium phosphate | 2 M, 36 ml | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | dimethoxyethane | C(OC)COC | C4H10O2
catalyst | 1,1′-bis(diphenylphosphino)ferrocene dichloropalladium(II) | 0.81 mmol, 936 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2].Cl[Pd]Cl
solvent | dimethylformamide | 170 ml | CN(C=O)C | C3H7NO
product | 5-(6-benzyloxy-2-ethoxy-4′-methylamino-biphenyl-4-ylmethyl)-pyrimidine-2,4-diamine | 2.30 g, 47% | C(C1=CC=CC=C1)OC1=CC(=CC(=C1C1=CC=C(C=C1)NC)OCC)CC=1C(=NC(=NC1)N)N | C27H29N5O2
